Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / glipizide
 
Attending: ___.
 
Chief Complaint:
Mechanical fall with resultant right clavicular fracture and 
surrounding hematoma
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with atrial fibrillation on anti-coagulation (Eliquis) who
presents after mechanical fall. The patient reports mechanical
fall during transfer from chair with rolling wheels to ___. 
He
fell on his right side, hitting his right shoulder and head. He
denies loss of consciousness. He denies chest pain, shortness of
breath or lightheadedness/dizziness prior to fall. 

He was taken to ___, where CT of the head and neck was
negative. CT and plain films of the RUE confirmed clavicle
fracture with associated soft tissue swelling. He was sent to
___ for further evaluation. Surgery was consulted for trauma
evaluation. 

At time of surgical consult, the patient is in no acute 
distress,
laying flat in bed. He reports persistent, severe right shoulder
pain but denies pain elsewhere. He is alert and oriented x 3. He
has intact motor and sensory in the right upper extremity. He
denies numbness, tingling or change in temperature. 

The patient was recently started on anti-coagulation, following
hospitalization 5 weeks ago for pneumonia during which he was
noted to have atrial fibrillation. He has a remote history of 
CVA
but does not recall being previously on anti-coagulation. 

 
Past Medical History:
Past Medical History: atrial fibrillation, CVA, HTN, seasonal
allergies 

Past Surgical History: N/A 
 
Social History:
___
Family History:
Family History: noncontributory
 
Physical Exam:
Admission Physical Exam:

Vitals: T97.9, HR116, BP127/69, RR22 96% RA
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: T: 98.0 PO BP: 102/64 L Sitting HR: 92 RR: 18 O2: 92% Ra 
GEN: A+Ox3, NAD
HEENT: MMM, EOM intact
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation
EXT: Right clavicle mildly tender to palpation, extremities wwp 
b/l
 
Pertinent Results:
IMAGING:

OSH: CT: right proximal clavicle fracture. NO SC joint 
dislocation.
Hematoma surrounding SCM and pec major. 

No evidence of acute fracture or dislocation involving cervical
spine. No evidence of acute intracranial process. 

___: CXR:
Blunting of the left lateral costophrenic angle with increased 
opacity over the lateral hemithorax, potentially due to pleural 
effusion or pleural thickening. 

LABS:

___ 06:59AM   HCT-38.7*
___ 03:38AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:38AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 03:38AM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 03:38AM URINE  MUCOUS-RARE*
___ 01:22AM   GLUCOSE-134* UREA N-24* CREAT-1.2 SODIUM-145 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-23 ANION GAP-16
___ 01:22AM   WBC-9.4 RBC-4.13* HGB-12.7* HCT-39.4* MCV-95 
MCH-30.8 MCHC-32.2 RDW-13.6 RDWSD-47.4*
___ 01:22AM   NEUTS-66.4 ___ MONOS-7.4 EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-6.26* AbsLymp-2.39 AbsMono-0.70 
AbsEos-0.01* AbsBaso-0.03
___ 01:22AM   PLT COUNT-218
 
Brief Hospital Course:
Mr. ___ is an ___ y/o M w/ atrial fibrillation on 
anti-coagulation (Eliquiis) who
presented to ___ after mechanical fall. He was evaluated in 
the ED by the trauma surgery and orthopedics services. His right 
arm was placed in a sling and made non-weight-bearing. He was 
admitted to the trauma surgery service for observation. His 
vital signs remained stable and he was afebrile. A chest x-ray 
showed possible left pleural effusion or thickening and 
confirmed the clavicular fracture as seen on OSH imaging. His 
arm, shoulder, and chest were examined serially on ___ the 
arm remained neurovascularly intact and his surrounding soft 
tissue swelling was not enlarging. His hematocrit remained 
stable upon recheck several hours after arrival at ___. His 
pain was well-controlled on oral pain medications. He was 
restarted on all home medications with the exception of Eliquis. 
He tolerated a regular diet and was having normal bowel 
function.

Physical therapy and occupational therapy were consulted and 
recommended rehab.  His Primary Care Provider, Dr. ___, was 
contacted and he recommended that the patient resume Eliquis.  
It was decided by the Trauma service that Eliquis may be resumed 
on ___. 

Also of note, his outside imaging at ___, where he 
initially presented, revealed a thyroid nodule and 
abnormal-appearing thyroid. A follow-up thyroid ultrasound was 
recommended on the basis of these findings and the patient was 
instructed to discuss these findings with his primary care 
doctor on an outpatient basis.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO DAILY 
2. Acetaminophen w/Codeine 1 TAB PO DAILY:PRN Pain - Moderate 
3. Apixaban 5 mg PO BID 
4. Metoprolol Tartrate 100 mg PO BID 
5. Diltiazem Extended-Release 180 mg PO DAILY 
6. Furosemide 20 mg PO 3X/WEEK (___) 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Docusate Sodium 100 mg PO BID 
please hold for loose stool  
3.  Miconazole Powder 2% 1 Appl TP QID:PRN irritation perineal  
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
Take lowest effective dose.  Wean as tolerated.  
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation  
6.  Atorvastatin 10 mg PO DAILY  
7.  Diltiazem Extended-Release 180 mg PO DAILY  
8.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
9.  Furosemide 20 mg PO 3X/WEEK (___)  
10.  Metoprolol Tartrate 100 mg PO BID  
11. HELD- Apixaban 5 mg PO BID  This medication was held. Do not 
restart Apixaban until ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1) Right clavicle fracture and associated hematoma
2) Incidental thyroid nodule and possible other thyroid 
abnormalities

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after your recent fall which resulted 
in a fracture of your right clavicle (collarbone). For your 
fracture, you were evaluated by orthopedics and your arm was 
placed in a sling. Please continue to wear the sling and do not 
bear weight on your right arm. Please follow up in the 
orthopedics clinic at your scheduled follow-up appointment. 

You worked with Physical and Occupational Therapy and it is 
recommended that you be discharged to rehab to continue your 
recovery. Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___